US08748613B2
(R)-Quinuclidin-3-yl 2-morpholino-2-phenylacetate (43 mg, 0.13 mmol) was dissolved in ethyl acetate (1.3 ml) and 2-chloro-1-phenylethanone (22.1 mg, 0.14 mmol) was added. The solution was stirred at room temperature for two days. The solvent was evaporated and the residue was triturated with Et2O to obtain (3R)-3-(2-morpholino-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (53 mg, 84% yield) as a pale yellow solid.

reactant | (R)-Quinuclidin-3-yl 2-morpholino-2-phenylacetate | 0.13 mmol, 43 mg | O1CCN(CC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C19H26N2O3
reactant | 2-chloro-1-phenylethanone | 0.14 mmol, 22.1 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | ethyl acetate | 1.3 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-3-(2-morpholino-2-phenylacetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 53 mg, 84% yield | [Cl-].O1CCN(CC1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C27H33N2O4.ClH/c30-24(21-7-3-1-4-8-21)19-29-15-11-22(12-16-29)25(20-29)33-27(31)26(23-9-5-2-6-10-23)28-13-17-32-18-14-28;/h1-10,22,25-26H,11-20H2;1H/q+1;/p-1/t22?,25-,26?,29?;/m0./s1
